US04290947
Anhydrous chromium trioxide (10.0 mmol) is added to a soution of anhydrous pyridine (20.0 mmol) in 30 ml of anhydrous methylene chloride. After stirring at room temperature for 15 min., the reaction mixture is treated all at once with a solution of (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-hydroxypropyl]-azetidin-2-one (1.00 mmol) in anhydrous methylene chloride (8 ml). The resulting mixture is stirred at room temperature for 5 min. The CH2Cl2 layer is decanted from the dark, tarry residue which is triturated with more CH2Cl2. The combined CH2Cl2 phase is concentrated in vacuo. The residue is triturated with ether (100 ml) and the ether extracts are filtered. The filtrate is washed with 5% aqueous sodium bicarbonate solution, 2.5 N HCl, 5% NaHCO3 and brine, dried over magnesium sulfate and concentrated in vacuo to yield (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1 -(t-butyldimethylsilyloxy)ethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxopropyl]azetidin-2-one. n.m.r. (CDCl3) δ7.85(2d-aromatic, 4), δ5.27(s,2), δ4.05(m,2), δ3.6(s,2), δ2.4-3.2(dd overlapping ABq,3), δ1.2(d,3,J=6.6), δ0.9(2s,18), δ0.22(s,6), δ0.05(s,6).

reactant | pyridine | 20.0 mmol | N1=CC=CC=C1 | C5H5N
reactant | (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-hydroxypropyl]-azetidin-2-one | 1.00 mmol | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C28H48N2O7Si2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 10.0 mmol | [O-2].[O-2].[O-2].[Cr+6]
product | (3S,4R)-1-(t-butyldimethylsilyl)-3-[(R)-1 -(t-butyldimethylsilyloxy)ethyl]-4-[3-(4-nitrobenzyl)oxycarbonyl-2-oxopropyl]azetidin-2-one | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C28H46N2O7Si2
